US07618960B2
Synthesis of 1-[(S)-1-(4-fluorophenyl)ethylamino]-2-methylpropan-2-ol
Isobutylene oxide (1.0 g) and (S)-1-(4-fluorophenyl)ethylamine (2.25 mL) were added to a solution of lithium perchlorate (14.8 g) in an ether (27.8 mL) at room temperature, and the reaction solution was stirred at room temperature for 1.5 hours. Isobutylene oxide (0.5 mL) was added to the reaction solution, which was then stirred overnight. Ice water and chloroform were added to the reaction solution, and the organic layer was separated. Thereafter, the organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography using a silica gel (chloroform:2-propanol=100:1 to 1:1) to obtain 2.13 g of the title compound.

reactant | Isobutylene oxide | 1.0 g | CC1(C)CO1 | C4H8O
reactant | (S)-1-(4-fluorophenyl)ethylamine | 2.25 mL | FC1=CC=C(C=C1)[C@H](C)N | C8H10FN
reactant | lithium perchlorate | 14.8 g | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | ether | 27.8 mL | CCOCC | C4H10O
reactant | Isobutylene oxide | 0.5 mL | CC1(C)CO1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-[(S)-1-(4-fluorophenyl)ethylamino]-2-methylpropan-2-ol | 2.13 g | FC1=CC=C(C=C1)[C@H](C)NCC(C)(O)C | C12H18FNO
